US08378107B2
Step 1: (3-{3-[(Acetyl-ethyl-amino)-methyl]-quinolin-2-yl}-4-methoxy-phenyl)-acetic acid ethyl ester
Prepared according to the procedure described in Example 5, Step 5, using the following starting materials: [3-(3-ethylaminomethyl-quinolin-2-yl)-4-methoxy-phenyl]-acetic acid ethyl ester; dihydrochloride and acetic anhydride.

reactant | [3-(3-ethylaminomethyl-quinolin-2-yl)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)C1=NC2=CC=CC=C2C=C1CNCC)=O | C23H26N2O3
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | (3-{3-[(Acetyl-ethyl-amino)-methyl]-quinolin-2-yl}-4-methoxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)C1=NC2=CC=CC=C2C=C1CN(CC)C(C)=O)=O | C25H28N2O4
